US04486428
dl-5-Acetoxy-3-(3-hydroxypropyl)-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran
To a solution of 3.177 g (7.96 mmole) dl-5-hydroxy-3-(3-hydroxypropyl)-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran in 40 ml methylene chloride, under a nitrogen atmosphere, was added 805 mg (7.96 mmole) triethylamine, the mixture stirred for 15 minutes and cooled to 0° C. At this temperature, 970 mg (7.79 mmole) 4-dimethylaminopyridine in 3 ml methylene chloride followed by 813 mg (7.96 mmole) acetic anhydride was added and the resulting mixture stirred at 0°-5° C. for one hour. After allowing the mixture to warm to room temperature, it was extracted three times with 30 ml portions methylene chloride. The extracts were washed with saturated sodium bicarbonate solution, dried (MgSO4) and evaporated to obtain 4.158 g of crude oil. The crude product was purified by column chromatography on silica gel eluting with ethyl ether/methylene chloride 3:97 (v/v) for 7 fractions and 1:9 (v/v) for 43 fractions. Fractions 18-27 contained the diacetate. Fractions 28-45 containing desired monoacetate were combined and evaporated to afford 1.823 g of the title compound. 1H-NMR(CDCl3)ppm(delta): 2.20 (s, 3H), 3.50 (t, 2H), 6.20 (m, 2H), 7.10 (s, 5H).

reactant | dl-5 hydroxy-3-(3-hydroxypropyl)-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran | 7.96 mmole, 3.177 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.OC1(C(OC2=C(C1)C=CC(=C2)OC(C)CCCC2=CC=CC=C2)(C)C)CCCO
reactant | triethylamine | 7.96 mmole, 805 mg | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 7.96 mmole, 813 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 7.79 mmole, 970 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | dl-5 Acetoxy-3-(3-hydroxypropyl)-2,2-dimethyl-7-(5-phenyl-2-pentyloxy)-3,4-dihydro-2H-benzopyran | 1.823 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.C(C)(=O)OC1(C(OC2=C(C1)C=CC(=C2)OC(C)CCCC2=CC=CC=C2)(C)C)CCCO | InChI=1S/C27H36O5.C18H34N4O2/c1-20(10-8-13-22-11-6-5-7-12-22)30-24-15-14-23-19-27(16-9-17-28,31-21(2)29)26(3,4)32-25(23)18-24;1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19/h5-7,11-12,14-15,18,20,28H,8-10,13,16-17,19H2,1-4H3;6-7,14,20-23H,2-5,8-13,15,19H2,1H3
